US07745484B2
Step 1: 1,3-Ditosyloxy-2-methyl-propane
2-Methylpropane-1,3-diol (50 g, 555 mmol) was dissolved in 555 ml pyridine and cooled to 0° C. p-Toluenesulfonyl chloride (212 g, 1110 mmol) was added and stirring was continued over night. 200 ml H2O was added and the reaction was extracted with DCM (2×1L). The combined organic extracts were dried over MgSO4 and evaporated. The product was recrystallized from EtOH/Hex and the product was obtained as a white solid. MS m/z: 399.0 (M+1).

reactant | 2-Methylpropane-1,3-diol | 555 mmol, 50 g | CC(CO)CO | C4H10O2
reactant | p-Toluenesulfonyl chloride | 1110 mmol, 212 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | H2O | 200 ml | O | H2O
solvent | pyridine | 555 ml | N1=CC=CC=C1 | C5H5N
product | 1,3-Ditosyloxy-2-methyl-propane | S(=O)(=O)(C1=CC=C(C)C=C1)OCC(COS(=O)(=O)C1=CC=C(C)C=C1)C | C18H22O6S2
